US07781478B2
To a solution of 1-cyclobutyl-6-hydroxy-1H-indole-3-carbonitrile (3.0 g, 14.1 mmol) and isopropylborate (5 mL, 21.1 mmol) in anhydrous THF (40 mL) at 0° C. was added LDA (16.2 mL, 2.0 M in heptane/THF/ethylbenzene, 32.4 mmol) dropwise. The mixture was stirred at 0° C. for 15 min and then at room temperature for 1 h. After cooling the reaction mixture to 0° C. a solution of 2-chloro-4-iodo-phenylamine (3.9 g, 15.5 mmol) in DMF (40 mL) was added followed by addition of PdCl2(dppf) (0.3 g, 0.4 mmol) and aq. K2CO3 (14 mL, 2.0 M). The mixture was warmed to room temperature and continued to stir overnight. The reaction was diluted with water and then extracted with ethyl acetate. The organic layers was dried, concentrated and triturated with chloroform to provide 2-(4-amino-3-chloro-phenyl)-1-cyclobutyl-6-hydroxy-1H-indole-3-carbonitrile (3.1 g, 64%) as an off-white solid.

reactant | 1-cyclobutyl-6-hydroxy-1H-indole-3-carbonitrile | 14.1 mmol, 3.0 g | C1(CCC1)N1C=C(C2=CC=C(C=C12)O)C#N | C13H12N2O
reactant | isopropylborate | 21.1 mmol, 5 mL | C(C)(C)OB([O-])[O-]
reactant | LDA | 32.4 mmol, 2.0 M, 16.2 mL | [Li+].CC(C)[N-]C(C)C
reactant | 2-chloro-4-iodo-phenylamine | 15.5 mmol, 3.9 g | ClC1=C(C=CC(=C1)I)N | C6H5ClIN
reactant | K2CO3 | 2.0 M, 14 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | PdCl2(dppf) | 0.4 mmol, 0.3 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4-amino-3-chloro-phenyl)-1-cyclobutyl-6-hydroxy-1H-indole-3-carbonitrile | 3.1 g, 64% | NC1=C(C=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)O)C1CCC1)Cl | C19H16ClN3O
